US06995157B2
A mixture of 4,4′-dimethoxybenzil (13.6 g, 50 mmol) and 6.06 g of thiosemicarbazide (66.5 mmol) in 50 mL of glacial acetic acid were stirred at room temperature then refluxed overnight. The cooled reaction mixture was diluted with 150 mL of water and filtered. The solids were washed with water and dried. The crude product was heated with 55 mL of ethyl acetate, cooled, filtered and dried to give 10.1 g of 5,6-bis-(4-methoxyphenyl)-1,2,4-triazin-3-thione, mp 228–232° C.

reactant | 4,4′-dimethoxybenzil | 50 mmol, 13.6 g | COC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)OC | C16H14O4
reactant | thiosemicarbazide | 66.5 mmol, 6.06 g | NNC(=S)N | CH5N3S
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | water | 150 mL | O | H2O
product | 5,6-bis-(4-methoxyphenyl)-1,2,4-triazin-3-thione | 10.1 g | COC1=CC=C(C=C1)C1=NC(NN=C1C1=CC=C(C=C1)OC)=S | C17H15N3O2S
